US05969017
A suspension of 31.7 g (0.139 mol)of 1-chloro-1-[(4-methoxyphenyl)hydrazono]-2-propanone in 400 ml of ethanol was treated with 23.4 g of 4-methylthiothiophenol and 23.4 of triethylamine. The suspension was heated at reflux for 2 hours and cooled. The resultant suspension was filtered and the precipitate was washed with 1 portion of cold ethanol. The solids were dried in vacuo to yield 1-[(4-methylthiophenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone, mp 124-127° C. 1H NMR(400 MHz, CDCl3): 2.41 (s, 3 H), 2.54 (s, 3 H), 3.78 (s, 3 H), 6.87 (d, J=8.8 Hz, 2 H), 7.12 (m, 6 H), 9.20 (broad s, 1 H).

reactant | 1-chloro-1-[(4-methoxyphenyl)hydrazono]-2-propanone | 0.139 mol, 31.7 g | ClC(C(C)=O)=NNC1=CC=C(C=C1)OC | C10H11ClN2O2
reactant | 4-methylthiothiophenol | 23.4 g | CSC1=CC=C(C=C1)S | C7H8S2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 1-[(4-methylthiophenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone | CSC1=CC=C(C=C1)SC(C(C)=O)=NNC1=CC=C(C=C1)OC | C17H18N2O2S2
